US04469686
1.5 g of DL-(2,2,5,5-tetramethyl-4-thiazolidinyl)-phosphinic acid were dissolved in 10 ml of boiling water and the volume was reduced by boiling for 0.25 hour. The mixture was cooled to room temperature and diluted with 25 ml of isopropanol. The resulting mixture was cooled at 0° C. overnight. The resulting solid was collected, washed with isopropanol and dried to give 0.85 g of DL-(1-amino-2-mercapto-2-methylpropyl)phosphinic acid of melting point 211° C. (decomposition).

reactant | (2,2,5,5-tetramethyl-4-thiazolidinyl)-phosphinic acid | CC1(SC(C(N1)P(O)=O)(C)C)C | C7H16NO2PS
solvent | water | 10 ml | O | H2O
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | (1-amino-2-mercapto-2-methylpropyl)phosphinic acid | NC(C(C)(C)S)P(O)=O | C4H12NO2PS
